US03953476
2-(1-Naphthylmethyl)amino-4-chloro-5-methylsulfonylbenzoic acid
2,4-Dichloro-5-methylsulfonylbenzoic acid (5.4 g.; 0.02 mole), 1-aminomethylnaphthylene (3.2 g.; 0.02 mole), and triethylamine (4 ml.) are added to diglyme (50 ml.). The resulting solution is refluxed with stirring for 4 hours. The reaction solution is cooled to room temperature and is slowly added to a solution of concentrated hydrochloric acid (10 ml.) in water (150 ml.) The aqueous layer is decanted from the viscous oil that separates. This viscous oil is dissolved in ethanol (25 ml.) and the resulting solution is poured into water. The tan colored solid which precipitates is collected and dried, yield 5.5 g. (70%). After several recrystallizations from acetonitrile, the 2-(1-naphthylmethyl)amino-4-chloro-5-methylsulfonylbenzoic acid melts at 242°-246° C. (dec. with eff.).

reactant | 2,4-Dichloro-5-methylsulfonylbenzoic acid | 0.02 mole, 5.4 g | ClC1=C(C(=O)O)C=C(C(=C1)Cl)S(=O)(=O)C | C8H6Cl2O4S
reactant | triethylamine | 4 ml | C(C)N(CC)CC | C6H15N
reactant | diglyme | 50 ml | COCCOCCOC | C6H14O3
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | water | 150 ml | O | H2O
product | 2-(1-Naphthylmethyl)amino-4-chloro-5-methylsulfonylbenzoic acid | C1(=CC=CC2=CC=CC=C12)CNC1=C(C(=O)O)C=C(C(=C1)Cl)S(=O)(=O)C | C19H16ClNO4S
